US07994315B2
A solution of ethyl 3-oxo-3-pyrimidin-4-yl-propionate (36.10 g, 0.186 mol), N-methylthiourea (25.40 g, 0.282 mol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (29.11 g, 0.191 mol) in ethanol (150 ml) was refluxed for 21 hrs. After removal of a half amount of ethanol under reduced pressure, hydrochloric acid was added to the solution. The resulting precipitate was collected by filtration, washed with water and then dried. The precipitate was stirred in hot ethyl acetate (1 L), and the precipitate was collected by filtration and dried to give 2-mercapto-1-methyl-1H-[4,4′]bipyrimidinyl-6-one (33.91 g, 83%).

reactant | ethyl 3-oxo-3-pyrimidin-4-yl-propionate | 0.186 mol, 36.10 g | O=C(CC(=O)OCC)C1=NC=NC=C1 | C9H10N2O3
reactant | N-methylthiourea | 0.282 mol, 25.40 g | CNC(=S)N | C2H6N2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.191 mol, 29.11 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-mercapto-1-methyl-1H-[4,4′]bipyrimidinyl-6-one | 33.91 g, 83% | SC=1N(C(C=C(N1)C1=NC=NC=C1)=O)C | C9H8N4OS
